US07576109B2
Intermediate: 4-([3-Methyl-2-(4-trifluoromethyl-phenyl)-thiazol-5-yl)-methoxymethyl]-benzoic acid methyl ester
Cool (0° C.) a solution of 2-([4-methyl-2-(4-trifluoromethyl-phenyl)-thiazol-5-yl)-methanol (450 mg, 1.64 mmol) in THF and add NaH (70 mg, 50% dispersion in mineral oil, 1.75 mmol). Stir the resulting mixture for 5 min. Remove the cold bath and continue stirring for 1 hr. To this mixture add 3-(bromomethyl)-benzoic acid methyl ester (450 mg, 1.95 mmol). Stir the resulting mixture for 3 hr then quench the reaction with sat. NH4Cl solution. Dilute the mixture with ether, wash with brine, dry over MgSO4 and concentrate under vacuum. Purify the residue by flash chromatography (eluting with 30% ethyl acetate in heptane) to give the title compound (181 mg) as an oil.

reactant | [4-methyl-2-(4-trifluoromethyl-phenyl)-thiazol-5-yl)-methanol | 1.64 mmol, 450 mg | CC=1N=C(SC1CO)C1=CC=C(C=C1)C(F)(F)F | C12H10F3NOS
reactant | NaH | 1.75 mmol, 70 mg | [H-].[Na+]
reactant | 3-(bromomethyl)-benzoic acid methyl ester | 1.95 mmol, 450 mg | COC(C1=CC(=CC=C1)CBr)=O | C9H9BrO2
reactant | THF | C1CCOC1 | C4H8O
solvent | ether | CCOCC | C4H10O
product | 4-([3-Methyl-2-(4-trifluoromethyl-phenyl)-thiazol-5-yl)-methoxymethyl]-benzoic acid methyl ester | 181 mg | COC(C1=CC=C(C=C1)C(OC)C1=CN(C(S1)C1=CC=C(C=C1)C(F)(F)F)C)=O | C21H20F3NO3S
